US06140342
cis-4-(3,5-Bis-trifluoromethyl-benzylamino)-7-hydroxy-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester
To a stirred suspension of cis-4-amino-7-hydroxy-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (4.49 g, 16.0 mmol) in 1,2-dichloroethane (100 mL) was added 3,5-bis(trifluoromethyl)benzaldehyde (2.6 mL, 16.0 mmol), followed by acetic acid (0.9 mL, 16.0 mmol). After 45 min, sodium triacetoxyborohydride (5.1 g, 24.0 mmol) was added, and the reaction was stirred at room temperature overnight. Water (75 mL) and ethyl acetate (75 mL) were added to the mixture which was then made basic to pH 10 with solid potassium carbonate. The mixture was then extracted with ethyl acetate (2×100 mL). The combined organic phases were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 8.17 g of crude product. Purification by silica gel chromatography using 0-30% ethyl acetate/hexanes as eluent afforded 4.90 g of the title compound (60%).

reactant | cis-4-amino-7-hydroxy-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 16.0 mmol, 4.49 g | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)O)OC)N)C | C14H20N2O4
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 16.0 mmol, 2.6 mL | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | acetic acid | 16.0 mmol, 0.9 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 24.0 mmol, 5.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 75 mL | O | H2O
product | cis-4-(3,5-Bis-trifluoromethyl-benzylamino)-7-hydroxy-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 4.90 g, 60% | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)O)OC)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C23H24F6N2O4
